US05362747
(2S)-2-amino-5-(5-methoxy-2-nitrophenylamino)pentanoic acid
A solution of 696 mg (3.0 mmol) of Nα -BOC-L-ornithine and 513 mg (3 mmol) of 5-methoxy-2-nitrofluorobenzene in 3 mL of 1N NaOH and 3 mL of ethanol were heated at reflux for 20 hours, then concentrated in vacuo to a yellow oil. The oil was dissolved in 21 mL of 4N HCl in 33% acetic acid and stirred for 12 hours, then suspended in 50 mL of water and washed with 30 mL of dichloromethane and concentrated in vacuo to give a yellow powder. This was recrystallized twice from acetic acid/water to afford the title product as yellow crystals. mp 245°-246°; MS M/Z (DCl/NH3) 284 [M+H]; 1H NMR (300 MHz, D2O/NaOD) δ: 8:1.45 (m, 4H), 2.81 (m, 2H), 3.10 (d, J=1 Hz, 4.2H), 3.52 (d, J=3 Hz, 5.7H), 5.52 (d, J=1 Hz, 3.0H), 5.69 (m, 1H), 7.33 (dd, J=1, 8.4 Hz, 5.7H); 13C NMR (75.5 MHz, D2O/NaOD) δ: 185.47, 168.65, 150.74, 131.00, 127.20, 108.64, 96.78, 58.48, 45.27, 35.37, 27.37; Analysis calc'd for C12H17N3O5.0.2 H2O: C, 50.24; H, 6.11; N, 14.65; found: C, 50.09; H, 6.03; N, 14.60.

reactant | Nα -BOC-L-ornithine | 3.0 mmol, 696 mg | C(=O)(OC(C)(C)C)N[C@@H](CCCN)C(=O)O | C10H20N2O4
reactant | 5-methoxy-2-nitrofluorobenzene | 3 mmol, 513 mg | COC=1C=CC(=C(C1)F)[N+](=O)[O-] | C7H6FNO3
solvent | NaOH | 1N, 3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (2S)-2-amino-5-(5-methoxy-2-nitrophenylamino)pentanoic acid | N[C@H](C(=O)O)CCCNC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C12H17N3O5
